US09447114B2
To a solution of methyl 3-(6-(4-chlorophenyl)-1,5-dimethyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (25 mg, 0.0636 mmol) in CCl4 (1 mL) was added NBS (11.3 mg, 0.0636 mmol) followed by benzoyl peroxide (2 mg). The reaction was heated at reflux for 4 h, cooled to RT then diluted with DCM (10 mL). The mixture was washed with aq. NaHCO3 (5 mL) and brine (10 mL). The organic layer was dried over Na2SO4 and concentrated to give methyl 3-(5-(bromomethyl)-6-(4-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (30 mg, 100% yield). LCMS: MH+ 473 and TR=1.907 min. Used without further purification.

reactant | methyl 3-(6-(4-chlorophenyl)-1,5-dimethyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 0.0636 mmol, 25 mg | ClC1=CC=C(C=C1)C1=C(C2=C(N(C(N(C2=O)CCC(=O)OC)=O)C)S1)C | C18H17ClN2O4S
reactant | NBS | 0.0636 mmol, 11.3 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(5-(bromomethyl)-6-(4-chlorophenyl)-1-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 30 mg, 100% yield | BrCC1=C(SC=2N(C(N(C(C21)=O)CCC(=O)OC)=O)C)C2=CC=C(C=C2)Cl | C18H16BrClN2O4S
